US07625889B2
Step 1: N-(1-Cyclopropyl-piperidin-4-yl)-4-fluoro-N-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-benzamide.
Solid supported cyanoborohydride (2.5 mmol/g, 46 mg) was added to a solution of 4-fluoro-N-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-N-piperidin-4-yl-benzamide (20 mg, 0.029 mmol), (1-ethoxy-cyclopropoxy)-trimethylsilane (25 mg, 0.145 mmol) and acetic acid (1.74 mg, 0.029 mmol) in 1 mL of methanol. The mixture was stirred at 45° C. for 2 h and then at 75° C. overnight. The mixture was cooled and filtered and the filtrate concentrated in vacuo to provide the crude product. Chromatography provided 14 mg of product. LC/MS: Retention time, 3.20 min; (M+H)=730.

reactant | cyanoborohydride | 46 mg | C(#N)[BH3-]
reactant | 4-fluoro-N-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-N-piperidin-4-yl-benzamide | 0.029 mmol, 20 mg | FC1=CC=C(C(=O)N(C2CCNCC2)CC2=C(C=CC(=C2)C2=CC3=C(N(N=N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)F)C=C1 | C44H37F2N5O
reactant | (1-ethoxy-cyclopropoxy)-trimethylsilane | 0.145 mmol, 25 mg | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 0.029 mmol, 1.74 mg | C(C)(=O)O | C2H4O2
solvent | methanol | 1 mL | CO | CH4O
product | N-(1-Cyclopropyl-piperidin-4-yl)-4-fluoro-N-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-benzamide | 14 mg | C1(CC1)N1CCC(CC1)N(C(C1=CC=C(C=C1)F)=O)CC1=C(C=CC(=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F | C47H41F2N5O
